US09238644B2
(b) 1-(2-(2-(2-Chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide (A40)
A mixture of 1-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide A39 (1.85 g, 5.93 mmol) and PtO2 (0.404 g, 1.78 mmol) in MeOH (10 mL) and DMF (40 mL) was stirred under an atmosphere of H2 for 110 hours at room temperature. The mixture was filtered through Celite and the volatiles were removed in vacuo. The residue was purified by column chromatography (Biotage Isolera, 40 g SiO2, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A40 as a white solid (1.65 g, 88%). LCMS-D: rt 3.20 min; m/z 316 [M+H]+.

reactant | 1-(2-((2-chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N)C | C17H14ClN3O
solvent | MeOH | 10 mL | CO | CH4O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | PtO2 | 1.78 mmol, 0.404 g | O=[Pt]=O
product | 1-(2-(2-(2-Chloro-5-methylpyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)C | C17H18ClN3O
